* C:\Users\gavin\Documents\1Projects\Personal-Projects\oscillator.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N001 N006 1m
C1 N004 0 500n
C2 0 N006 100n
Q1 N001 N005 N008 0 2N2222
R1 N008 0 750
R2 N001 N004 1
R3 N003 N001 1.75k
R4 N005 0 14.5k
R5 N002 N005 35.5k
V1 N002 0 5
C3 N007 N006 1µ
L2 N002 N003 1m
C4 out N001 1µ
C5 N008 0 1µ
R6 N005 N007 10k
.model NPN NPN
.model PNP PNP
.lib C:\Users\gavin\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 5ms uic
.backanno
.end
